US04156778
4-Amino-3-nitrobenzimidic acid-(2-methoxyethyl)-ester-hydrochloride= ANB (Formula VIII)
100 g of 4-amino-3-nitrobenzonitrile are suspended in 500 ml of 2-methoxyethanol. Gaseous hydrochloric acid is introduced, the temperature of the solution is allowed to rise to 70° C. in the course of the introduction, and the solution is maintained at this temperature by cooling until it decreases by itself. Finally, the solution is cooled to 0°-5° C., saturated with gaseous hydrochloric acid and allowed to stand overnight. The precipitate is then filtered off with suction, washed with isopropanol and dried over KOH in a desiccator.

reactant | 4-amino-3-nitrobenzonitrile | 100 g | NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | 2-methoxyethanol | 500 ml | COCCO | C3H8O2
product | 4-Amino-3-nitrobenzimidic acid-(2-methoxyethyl)-ester-hydrochloride | Cl.COCCOC(C1=CC(=C(C=C1)N)[N+](=O)[O-])=N | InChI=1S/C10H13N3O4.ClH/c1-16-4-5-17-10(12)7-2-3-8(11)9(6-7)13(14)15;/h2-3,6,12H,4-5,11H2,1H3;1H
